US06982348B2
4-fluoro-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-{3-[(trifluoromethyl)thio]benzyl}ethyl)-1-naphthamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-{3-[(trifluoromethyl)thio]phenyl}propan-1-ol (450 mg, 1.51 mmol) in acetonitrile (20 ml) were added 4-fluoronaphthalenecarboxylic acid (287 mg, 1.51 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (435 mg, 2.27 mmol) and 1-hydroxybenzotriazole hydrate (231 mg, 1.51 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-ethyl acetate). Recrystallization from ethyl acetate-hexane gave the objective substance (447 mg, 57%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-{3-[(trifluoromethyl)thio]phenyl}propan-1-ol | 1.51 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)SC(F)(F)F | C16H15F4NOS
reactant | 4-fluoronaphthalenecarboxylic acid | 1.51 mmol, 287 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.27 mmol, 435 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.51 mmol, 231 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-{3-[(trifluoromethyl)thio]benzyl}ethyl)-1-naphthamide | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)SC(F)(F)F | C27H20F5NO2S
